US09388189B2
(S)-2-(1-((5-(3-Chloro-2-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(3-Chloro-2-hydroxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (58 mg, 0.07 mmol) was treated with trifluoroacetic acid (1.20 ml, 15.58 mmol) and a solution of ammonia (7N in methanol, 1.20 ml, 8.40 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 5% dichloromethane-2-propanol) to obtain 8 mg (21% yield) of the title compound.

reactant | (S)-2-(1-((5-(3-Chloro-2-hydroxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.07 mmol, 58 mg | ClC=1C(=C(C=CC1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)O | C33H36ClN7O3Si
reactant | trifluoroacetic acid | 15.58 mmol, 1.20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 8.40 mmol, 7N, 1.20 ml | N | H3N
product | (S)-2-(1-((5-(3-Chloro-2-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 8 mg, 21% yield | ClC=1C(=C(C=CC1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)O | C27H22ClN7O2
